*** Extracted spice netlist generated from MAX ***

.SUBCKT MMI_FFMB clk d0 d1 q sel
C_1 net_1 gnd 2.07209fF
C_2 sel gnd 2.21752fF
C_3 vdd gnd 5.73652fF
C_4 d0 gnd 0.789015fF
C_5 net_3 gnd 2.04216fF
C_6 d1 gnd 0.863105fF
C_7 clk gnd 3.80072fF
C_8 net_5 gnd 2.95037fF
C_9 net_6 gnd 4.41669fF
C_10 net_8 gnd 2.12415fF
C_11 net_9 gnd 2.3045fF
C_12 net_10 gnd 2.305fF
C_13 q gnd 0.878747fF
C_14 gnd gnd 5.32753fF
Mp_1 net_1 sel vdd vdd p W=0.77U L=0.15U AD=0.30415P PD=2.33U AS=0.267066P 
+ PS=2.03317U
Mp_2 vdd sel net_2 vdd p W=1.54U L=0.15U AD=0.534133P PD=4.06633U 
+ AS=0.2464P PS=1.86U
Mp_3 net_2 d0 net_3 vdd p W=1.54U L=0.15U AD=0.2464P PD=1.86U AS=0.40194P 
+ PS=2.528U
Mp_4 net_3 d1 net_4 vdd p W=1.54U L=0.15U AD=0.40194P PD=2.528U AS=0.2464P 
+ PS=1.86U
Mp_5 net_4 net_1 vdd vdd p W=1.54U L=0.15U AD=0.2464P PD=1.86U AS=0.534133P 
+ PS=4.06633U
Mp_6 net_3 clk net_5 vdd p W=0.77U L=0.15U AD=0.20097P PD=1.264U 
+ AS=0.229556P PS=2.26188U
Mp_7 net_5 net_6 net_7 vdd p W=0.35U L=0.15U AD=0.104344P PD=1.02812U 
+ AS=0.056P PS=0.67U
Mp_8 net_7 net_8 vdd vdd p W=0.35U L=0.15U AD=0.056P PD=0.67U AS=0.121394P 
+ PS=0.924167U
Mp_9 vdd clk net_6 vdd p W=0.77U L=0.15U AD=0.267066P PD=2.03317U 
+ AS=0.30415P PS=2.33U
Mp_10 vdd net_5 net_8 vdd p W=0.77U L=0.15U AD=0.267066P PD=2.03317U 
+ AS=0.1694P PS=1.21U
Mp_11 net_8 net_6 net_9 vdd p W=0.77U L=0.15U AD=0.1694P PD=1.21U 
+ AS=0.30415P PS=2.62625U
Mp_12 vdd net_9 net_10 vdd p W=0.77U L=0.15U AD=0.267066P PD=2.03317U 
+ AS=0.30415P PS=2.33U
Mp_13 net_9 clk net_11 vdd p W=0.35U L=0.15U AD=0.13825P PD=1.19375U 
+ AS=0.056P PS=0.67U
Mp_14 net_11 net_10 vdd vdd p W=0.35U L=0.15U AD=0.056P PD=0.67U 
+ AS=0.121394P PS=0.924167U
Mp_15 vdd net_10 q vdd p W=1.54U L=0.15U AD=0.534133P PD=4.06633U 
+ AS=0.6083P PS=3.87U
Mn_1 net_5 net_6 net_3 gnd n W=0.35U L=0.15U AD=0.13825P PD=1.49U 
+ AS=0.141815P PS=0.862963U
Mn_2 net_9 net_6 net_12 gnd n W=0.35U L=0.15U AD=0.13825P PD=1.49U 
+ AS=0.05075P PS=0.64U
Mn_3 net_12 net_10 gnd gnd n W=0.35U L=0.15U AD=0.05075P PD=0.64U 
+ AS=0.11463P PS=1.273U
Mn_4 net_1 sel gnd gnd n W=0.385U L=0.15U AD=0.152075P PD=1.56U 
+ AS=0.126093P PS=1.4003U
Mn_5 gnd net_1 net_13 gnd n W=0.77U L=0.15U AD=0.252185P PD=2.8006U 
+ AS=0.1232P PS=1.09U
Mn_6 net_13 d0 net_3 gnd n W=0.77U L=0.15U AD=0.1232P PD=1.09U AS=0.311993P 
+ PS=1.89852U
Mn_7 net_3 d1 net_14 gnd n W=0.77U L=0.15U AD=0.311993P PD=1.89852U 
+ AS=0.132825P PS=1.115U
Mn_8 net_14 sel gnd gnd n W=0.77U L=0.15U AD=0.132825P PD=1.115U 
+ AS=0.252185P PS=2.8006U
Mn_9 gnd clk net_6 gnd n W=0.385U L=0.15U AD=0.126093P PD=1.4003U 
+ AS=0.152075P PS=1.56U
Mn_10 net_5 clk net_15 gnd n W=0.35U L=0.15U AD=0.13825P PD=1.49U AS=0.056P 
+ PS=0.67U
Mn_11 net_15 net_8 gnd gnd n W=0.35U L=0.15U AD=0.056P PD=0.67U AS=0.11463P 
+ PS=1.273U
Mn_12 gnd net_5 net_8 gnd n W=0.385U L=0.15U AD=0.126093P PD=1.4003U 
+ AS=0.097075P PS=1.33048U
Mn_13 net_8 clk net_9 gnd n W=0.35U L=0.15U AD=0.08825P PD=1.20952U 
+ AS=0.13825P PS=1.49U
Mn_14 gnd net_10 q gnd n W=0.77U L=0.15U AD=0.252185P PD=2.8006U 
+ AS=0.30415P PS=2.33U
Mn_15 net_10 net_9 gnd gnd n W=0.52U L=0.15U AD=0.2054P PD=1.83U 
+ AS=0.170307P PS=1.89131U
.ENDS	$ MMI_FFMB

.GLOBAL gnd vdd

