*** Extracted spice netlist generated from MAX ***

.SUBCKT MMI_AOI21C in0 in1 in2 out
C_1 out gnd 2.77516fF
C_2 in0 gnd 1.44602fF
C_3 net_1 gnd 3.7697fF
C_4 in1 gnd 1.60821fF
C_5 vdd gnd 3.88367fF
C_6 in2 gnd 1.59417fF
C_7 gnd gnd 3.73274fF
C_8 net_2 gnd 1.21919fF
Mp_1 out in0 net_1 vdd p W=2.455U L=0.18U AD=0.8347P PD=3.95333U 
+ AS=0.720133P PS=3.31444U
Mp_2 net_1 in0 out vdd p W=2.455U L=0.18U AD=0.720133P PD=3.31444U 
+ AS=0.8347P PS=3.95333U
Mp_3 out in0 net_1 vdd p W=2.455U L=0.18U AD=0.8347P PD=3.95333U 
+ AS=0.720133P PS=3.31444U
Mp_4 net_1 in1 vdd vdd p W=2.455U L=0.18U AD=0.720133P PD=3.31444U 
+ AS=0.66285P PS=2.995U
Mp_5 vdd in1 net_1 vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U 
+ AS=0.720133P PS=3.31444U
Mp_6 net_1 in1 vdd vdd p W=2.455U L=0.18U AD=0.720133P PD=3.31444U 
+ AS=0.66285P PS=2.995U
Mp_7 vdd in2 net_1 vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U 
+ AS=0.720133P PS=3.31444U
Mp_8 net_1 in2 vdd vdd p W=2.455U L=0.18U AD=0.720133P PD=3.31444U 
+ AS=0.66285P PS=2.995U
Mp_9 vdd in2 net_1 vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U 
+ AS=0.720133P PS=3.31444U
Mn_1 out in0 gnd gnd n W=0.92U L=0.18U AD=0.297453P PD=1.81831U 
+ AS=0.291314P PS=1.64482U
Mn_2 gnd in0 out gnd n W=0.92U L=0.18U AD=0.291314P PD=1.64482U 
+ AS=0.297453P PS=1.81831U
Mn_3 out in1 net_2 gnd n W=1.225U L=0.18U AD=0.396065P PD=2.42112U 
+ AS=0.33075P PS=1.765U
Mn_4 net_2 in1 out gnd n W=1.225U L=0.18U AD=0.33075P PD=1.765U 
+ AS=0.396065P PS=2.42112U
Mn_5 out in1 net_2 gnd n W=1.225U L=0.18U AD=0.396065P PD=2.42112U 
+ AS=0.33075P PS=1.765U
Mn_6 net_2 in2 gnd gnd n W=1.225U L=0.18U AD=0.33075P PD=1.765U 
+ AS=0.387891P PS=2.19012U
Mn_7 gnd in2 net_2 gnd n W=1.225U L=0.18U AD=0.387891P PD=2.19012U 
+ AS=0.33075P PS=1.765U
Mn_8 net_2 in2 gnd gnd n W=1.225U L=0.18U AD=0.33075P PD=1.765U 
+ AS=0.387891P PS=2.19012U
.ENDS	$ MMI_AOI21C

.GLOBAL gnd vdd

